US08440666B2
2-{5-Methylthio-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}acetic Acid
Ethyl 2-{5-bromo-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}acetate (220 mg, 0.533 mmol) and sodium thiomethoxide (112 mg, 1.60 mmol) in toluene (22 mL) were stirred at 80° C. for 3 hours. After cooling, the reaction solution was stirred with 1,4-dioxane (6 mL) and 1 M aqueous sodium hydroxide (1.59 mL) at room temperature for 4 hours. After completion of the reaction, the reaction solution was mixed with toluene and extracted with 1 M aqueous sodium hydroxide twice. The resulting aqueous layer was acidified to pH 1 with 1 M hydrochloric acid and extracted with ethyl acetate twice, and the extract was dried over anhydrous sodium sulfate and evaporated under reduced pressure to give the desired product (169 mg, 90% yield).

reactant | Ethyl 2-{5-bromo-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}acetate | 0.533 mmol, 220 mg | BrC1=C(C=NN(C1=O)CC(=O)OCC)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C18H26BrN3O3
reactant | sodium thiomethoxide | 1.60 mmol, 112 mg | C[S-].[Na+]
reactant | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
reactant | sodium hydroxide | 1 M, 1.59 mL | [OH-].[Na+]
solvent | toluene | 22 mL | C1(=CC=CC=C1)C | C7H8
product | 2-{5-Methylthio-6-oxo-4-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-1(6H)-yl}acetic Acid | 169 mg, 90% yield | CSC1=C(C=NN(C1=O)CC(=O)O)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C17H25N3O3S
